US07301022B2
(2S,5R)-N-(2-(6-(2-Acetamidobenzo[d]thiazol-4-yloxy)pyrimidin-4-yl)-5-(trifluoromethyl)phenyl)-1-isopropyl-5-phenylpyrrolidine-2-carboxamide.
(2S,5R)-N-(2-(6-(2-Acetamidobenzo[d]thiazol-4-yloxy)pyrimidin-4-yl)-5-(trifluoromethyl)phenyl)-5-phenylpyrrolidine-2-carboxamide, Example 60, (62 mg, 0.1 mmol) was reacted with acetone (0.009 mL, 0.12 mmol) under the conditions of Example 3(d) to give the title compound as a white solid (51 mg, 78%). MS (ESI, pos. ion.) m/z: 661 (M+1).

reactant | (2S,5R)-N-(2-(6-(2-Acetamidobenzo[d]thiazol-4-yloxy)pyrimidin-4-yl)-5-(trifluoromethyl)phenyl)-5-phenylpyrrolidine-2-carboxamide | C(C)(=O)NC=1SC2=C(N1)C(=CC=C2)OC2=CC(=NC=N2)C2=C(C=C(C=C2)C(F)(F)F)NC(=O)[C@H]2N[C@H](CC2)C2=CC=CC=C2 | C31H25F3N6O3S
reactant | acetone | 0.12 mmol, 0.009 mL | CC(=O)C | C3H6O
product | (2S,5R)-N-(2-(6-(2-Acetamidobenzo[d]thiazol-4-yloxy)pyrimidin-4-yl)-5-(trifluoromethyl)phenyl)-1-isopropyl-5-phenylpyrrolidine-2-carboxamide | 51 mg, 78% | C(C)(=O)NC=1SC2=C(N1)C(=CC=C2)OC2=CC(=NC=N2)C2=C(C=C(C=C2)C(F)(F)F)NC(=O)[C@H]2N([C@H](CC2)C2=CC=CC=C2)C(C)C | C34H31F3N6O3S
